US06716851B2
4-(2-Chloro-5-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 2-chloro-5-methylaniline (41 mg, 0.290 mmol) similar to Example 117 and isolated as a yellow solid (15 mg, 21%). 1H NMR (CDCl3): 9.62-9.61 (m, 1H), 8.73-8.69 (m, 2H), 7.89 (s, 1H), 7.44-7.40 (m, 1H), 7.37 (d, J=8.1 Hz, 1H), 7.30 (s, 1H), 7.00 (dd, J=0.9, 8.4 Hz, 1H), 6.88 (s, 1H), 2.42 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 2-chloro-5-methylaniline | 0.290 mmol, 41 mg | ClC1=C(N)C=C(C=C1)C | C7H8ClN
product | 4-(2-Chloro-5-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | ClC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C=C1)C | C17H12ClF3N4
